US06329550B1
15.2 Synthesis of N,N′-di-(2-methylphenethyl)-2-((S)-2-mercapto-3-phenylpropionylamino)malonamide
Combine of N,N′-di-(2-methylphenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide (0.175 g, 0.274 mmol), mercury (II) acetate (0.108 g, 0.34 mmol), and anisole (0.3 mL) in dichloromethane (10 mL). Cool in an ice bath and degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add trifluoroacetic acid (4 mL). After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Combine the residue with carbon tetrachloride and evaporate in vacuo to remove most of the trifluoroacetic acid. Chromatograph the residue on silica gel eluting with 1/2 ethyl acetate/hexane and then 1/1 ethyl acetate/hexane to give the title compound.

reactant | N,N′-di-(2-methylphenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide | 0.274 mmol, 0.175 g | CC1=C(CCNC(C(C(=O)NCCC2=C(C=CC=C2)C)NC([C@H](CC2=CC=CC=C2)SCC2=CC=C(C=C2)OC)=O)=O)C=CC=C1 | C38H43N3O4S
reactant | anisole | 0.3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.34 mmol, 0.108 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | N,N′-di-(2-methylphenethyl)-2-((S)-2-mercapto-3-phenylpropionylamino)malonamide | CC1=C(CCNC(C(C(=O)NCCC2=C(C=CC=C2)C)NC([C@H](CC2=CC=CC=C2)S)=O)=O)C=CC=C1 | C30H35N3O3S
